US05789609
Synthesis of 7,7'-Bis(benzyloxy)-2,2'-dihydroxy-1,1'-binaphthyl
To 23.6 g (0.094 mol) of 2-benzyloxy-7-hydroxynaphthalene and 25.6 g (0.19 mol) of cupric chloride was added 600 ml of methanol, and 56.32 g (0.77 mol) of t-butylamine and 200 ml of methanol were added thereto dropwise over a period of 1.5 hours, followed by stirring for 20 hours. The reaction mixture was cooled with an ice bath, and 200 ml of a 6N hydrochloric acid aqueous solution was added thereto dropwise. The reaction mixture was concentrated with an evaporator. Ethyl acetate was added to the residue, followed by liquid-liquid separation. The organic layer was washed with a saturated sodium chloride aqueous solution, and the solvent was removed by evaporation. The residue was recrystallized from toluene-cyclohexane to yield 20 g (85%) of the title compound.

reactant | 2-benzyloxy-7-hydroxynaphthalene | 0.094 mol, 23.6 g | C(C1=CC=CC=C1)OC1=CC2=CC(=CC=C2C=C1)O | C17H14O2
reactant | t-butylamine | 0.77 mol, 56.32 g | C(C)(C)(C)N | C4H11N
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | methanol | 200 ml | CO | CH4O
solvent | methanol | 600 ml | CO | CH4O
product | 7,7'-Bis(benzyloxy)-2,2'-dihydroxy-1,1'-binaphthyl | 20 g, 85% | C(C1=CC=CC=C1)OC1=CC=C2C=CC(=C(C2=C1)C1=C(C=CC2=CC=C(C=C12)OCC1=CC=CC=C1)O)O | C34H26O4
